US07446222B2
6″Fluoro-2-benzyloxy-[1,1′:2′,1″]terphenyl-3″-carboxylic acid
{2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid (60 mg, 0.19 mmol) and 3-bromo-4-fluorobenzoic acid (69 mg, 0.31 mmol) were dissolved in 1:1 toluene:ethanol (6 ml) under nitrogen. Potassium carbonate (290 mg, 2.1 mmol) and tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.019 mmol) were added and the mixture heated at 90° C. for 1 h. After cooling, the reaction mixture was poured into water, acidified with 1M HCl solution and extracted with ethyl acetate (15×2 ml), the combined organic layer were dried and evaporated. The residue was then purified on an SPE column using 40% of ethyl acetate in iso-hexane to give the title compound as white solid.

reactant | {2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid | 0.19 mmol, 60 mg | C1(=CC=CC=C1)COC1=C(C=CC=C1)C1=C(C=CC=C1)B(O)O | C19H17BO3
reactant | 3-bromo-4-fluorobenzoic acid | 0.31 mmol, 69 mg | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | Potassium carbonate | 2.1 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.019 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 6″Fluoro-2-benzyloxy-[1,1′:2′,1″]terphenyl-3″-carboxylic acid | FC1=CC=C(C=C1C=1C(=CC=CC1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C(=O)O | C26H19FO3
